US04686227
To a solution of 37% aqueous formaldehyde (0.42 g) and 50% aqueous dimethylamine (0.46 g) in acetic acid (3.2 ml) was added 7-chloro-2-methylimidazo[2,1-a]isoquinoline (1 g) and the mixture was warmed at 50° C. with stirring for 3.5 hours. The solution was poured into ice water and neutralized with an aqueous solution of sodium hydroxide. The resulting precipitates were collected by filtration, washed with water and recrystallized from a mixture of toluene and n-hexane to give 7-chloro-3-dimethylaminomethyl-2-methylimidazo[2,1-a]isoquinoline (0.9 g).

reactant | formaldehyde | 0.42 g | C=O | CH2O
reactant | dimethylamine | 0.46 g | CNC | C2H7N
reactant | 7-chloro-2-methylimidazo[2,1-a]isoquinoline | 1 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3)C | C12H9ClN2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
product | 7-chloro-3-dimethylaminomethyl-2-methylimidazo[2,1-a]isoquinoline | 0.9 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3CN(C)C)C | C15H16ClN3
